US06172076B2
Preparation of 8-Benzyl-1-(3-methylphenyl)-1,3,8-triaza-spiro[4.5]decan-2-one
A mixture of 1-benzyl-4-(3-methylphenyl)-4-aminomethyl-piperidine (0.52 g, 1.67 mmol) and 1,1′-carbonyldiimidazole (0.41 g, 2.5 mmol) in dichloromethane (2 mL) was stirred at room temp. for 3 days. The resultant solution was concentrated and the residue subjected to column chromatography on silica gel eluting with a 1:1 mixture of chloroform and chloroform saturated with ammonia gas. Collection and concentration of appropriate fractions provide the title compound. FAB MS m/e 336 (M+1)

reactant | 1-benzyl-4-(3-methylphenyl)-4-aminomethyl-piperidine | 1.67 mmol, 0.52 g | C(C1=CC=CC=C1)N1CCC(CC1)(CN)C1=CC(=CC=C1)C | C20H26N2
reactant | 1,1′-carbonyldiimidazole | 2.5 mmol, 0.41 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 8-Benzyl-1-(3-methylphenyl)-1,3,8-triaza-spiro[4.5]decan-2-one | C(C1=CC=CC=C1)N1CCC2(CNC(N2C2=CC(=CC=C2)C)=O)CC1 | C21H25N3O
